US08440689B2
Methyl 6-chloro-4-cyano-2-(m-tolylamino)nicotinate
A solution of methyl 2,6-dichloro-4-cyanonicotinate (455 mg, 1.97 mmol), triethylamine (0.549 mL, 3.94 mmol) and m-toluidine (0.32 mL, 2.95 mmol) in THF (10 mL) was stirred at RT for 3 days. Water was added to the resulting mixture, and the aqueous phase was extracted with EtOAc. The organic phases were combined, washed with H2O and brine, dried over MgSO4, and evaporated. The residue was purified by chromatography on SiO2 to give the title compound as a yellow solid (198 mg, 33.3%). 1H NMR (500 MHz, CDCl3) δ ppm 2.40 (s, 3H), 3.99 (s, 3H), 6.92 (s, 1H), 7.05-7.14 (m, 4H), 7.33 (t, J=7.81 Hz, 1H).

reactant | methyl 2,6-dichloro-4-cyanonicotinate | 1.97 mmol, 455 mg | ClC1=C(C(=O)OC)C(=CC(=N1)Cl)C#N | C8H4Cl2N2O2
reactant | triethylamine | 3.94 mmol, 0.549 mL | C(C)N(CC)CC | C6H15N
reactant | m-toluidine | 2.95 mmol, 0.32 mL | NC1=CC(=CC=C1)C | C7H9N
reactant | Water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Methyl 6-chloro-4-cyano-2-(m-tolylamino)nicotinate | 198 mg, 33.3% | ClC1=NC(=C(C(=O)OC)C(=C1)C#N)NC=1C=C(C=CC1)C | C15H12ClN3O2
